Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Lamictal / shellfish derived
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None 

attach
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS:
========================
___ 12:10PM BLOOD WBC-7.5 RBC-4.44* Hgb-13.4* Hct-40.8 
MCV-92 MCH-30.2 MCHC-32.8 RDW-12.2 RDWSD-41.4 Plt ___
___ 12:10PM BLOOD Glucose-94 UreaN-11 Creat-1.1 Na-137 
K-4.5 Cl-96 HCO3-29 AnGap-12

MICRO:
======
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING/OTHER STUDIES: 
====================
 CT abd/pelvis
1. Circumferential wall thickening and hyperemia of the rectum 
to the rectosigmoid junction with extensive surrounding fat 
stranding, consistent with proctitis, likely infectious or 
inflammatory in etiology.  Follow-up colonoscopy to exclude 
underlying malignancy is recommended.
2. Retroperitoneal, mesenteric, and perirectal lymphadenopathy, 
likely reactive.
3. Mild circumferential mural thickening of the distal esophagus 
with a periesophageal node could represent esophagitis.  
Correlation with clinical symptoms and consider upper endoscopy 
as needed.
4. No additional acute process within the abdomen pelvis.  
Specifically, no bowel obstruction.

LABS AT DISCHARGE: 
=================
___ 07:05AM BLOOD WBC-6.6 RBC-4.26* Hgb-12.9* Hct-39.6* 
MCV-93 MCH-30.3 MCHC-32.6 RDW-12.0 RDWSD-41.3 Plt ___
___ 07:05AM BLOOD Glucose-86 UreaN-12 Creat-1.2 Na-138 
K-4.7 Cl-97 HCO___ AnGap-___ with well-controlled HIV on Biktarvy (treated by PCP in ___ 
___, UC diagnosed in ___ 3 weeks prior to presentation 
presenting with rectal cramping/pain x2 weeks, with evidence of 
proctitis and esophagitis.

# Proctitis: 
# Suspected UC: 
# ? new malignancy diagnosis: 
States that UC was recently diagnosed in ___ and he is 
currently having all of his medical records translated into 
___. Additionally, he states that his physician in ___ 
also told him that his biopsy results were positive for 
"cancer." No further information is available at this time as 
medical records not yet available. The patient was seen by our 
GI team, who recommended repeat flexible sigmoidoscopy to 
further evaluate proctitis. However, the patient then changed 
his mind, not wanting to be in the hospital for the holidays, 
and chose to leave the hospital against medical advice. He is 
planning on visiting his medical providers in ___ once 
he has his records from ___ available. He was discharged on 
the oral UC medications as prescribed in ___ without any 
modifications. 

# Esophagitis: 
# Oral thrush: 
Exam notable for thick white plaque on tongue, consistent with 
oral candidiasis. CT abd/pelvis noted thickened esophagus 
consistent with esophagitis. Patient prescribed two week course 
of fluconazole. If symptoms persist, then will need EGD. 

# HIV: 
Pt reports excellent control, with consistent adherence to 
medication as prescribed. Followed by PCP in ___ 
need new PCP if relocates to a new city. 

# Polysubstance use: 
Pt states that he is making arrangements to distance himself 
from lifestyle that involves polysubstance use. Not currently 
using.

# Microscopic hematuria:
Noted incidentally. Needs repeat and further workup, likely with 
CTU and cystoscopy if persistent. 

# HTN: Pt reports that he takes metoprolol, which was held in 
setting of active proctitis. He remained HD stable and thus 
resumed on discharge. 

# GERD: continued home omeprazole.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Metoprolol Tartrate 25 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. ALPRAZolam 0.5 mg PO DAILY:PRN hives 
4. Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY 
5. DiphenhydrAMINE 25 mg PO Q8H:PRN allergies 
6. Cetirizine 10 mg PO DAILY:PRN allergies 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergies 
8. Vitamin D ___ UNIT PO 1X/WEEK (SA) 
9. Pulmicort Flexhaler (budesonide) 180 mcg/actuation inhalation 
unknown 
10. Mesalamine (Rectal) 1000 mg PR Frequency is Unknown 

 
Discharge Medications:
1.  Fluconazole 200 mg PO Q24H 
next dose ___ 
RX *fluconazole 200 mg 1 tablet(s) by mouth once a day Disp #*13 
Tablet Refills:*0 
2.  Mesalamine (Rectal) ___AILY  
3.  ALPRAZolam 0.5 mg PO DAILY:PRN hives  
4.  Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY  
5.  Cetirizine 10 mg PO DAILY:PRN allergies  
6.  DiphenhydrAMINE 25 mg PO Q8H:PRN allergies  
7.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergies  
8.  Metoprolol Tartrate 25 mg PO BID  
9.  Omeprazole 20 mg PO DAILY  
10.  Pulmicort Flexhaler (budesonide) 180 mcg/actuation 
inhalation unknown  
11.  Vitamin D ___ UNIT PO 1X/WEEK (SA)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Proctitis: 
# oral candidiasis/suspected esophageal candidiasis: 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to care for you at the ___ 
___. You were admitted for further evaluation of 
rectal pain with concerns of a possible new cancer diagnosis 
based on your biopsies in ___. We recommended that you stay 
for further evaluation and medical care. Unfortunately, we are 
unable to properly treat you without further testing, which you 
declined, deciding to pursue treatment once you return to 
___. Your decision to leave is against medical advice, 
but we respect your decision making autonomy. 

Per discussion with the gastroenterologist, we cannot make any 
changes to your medications for possible Ulcerative Colitis 
without further testing and you should continue the regimen 
prescribed in ___ until you can establish GI care. You are 
being prescribed an anti-fungal medication to treat your thrush. 


We wish you the best! 

Sincerely, 
Your ___ Team  
 
Followup Instructions:
___